US07534763B2
B. 3-Bromo-6-(bromomethyl)pyridazine
A solution of 1.00 g (5.78 mmol) of 3-bromo-6-methylpyridazine and 1.03 g (5.79 mmol, 1.0 eq) of recrystallized N-bromosuccinimide in 20 mL of carbon tetrachloride was added 95 mg of AIBN. The reaction mixture was purged twice with argon and evacuated and set to reflux under argon. After 3 h, the reaction mixture was cooled to room temperature, filtered and the filtrate was concentrated to give a yellow oil. The mixture was directly purified by silica gel chromatography using hexanes/dichloromethane (1:9) as eluant (5×12 cm column), to give a colorless oil, 444 mg, 30% yield.

reactant | 3-bromo-6-methylpyridazine | 5.78 mmol, 1.00 g | BrC=1N=NC(=CC1)C | C5H5BrN2
reactant | N-bromosuccinimide | 5.79 mmol, 1.03 g, 1.0 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 95 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-6-(bromomethyl)pyridazine | 30% yield | BrC=1N=NC(=CC1)CBr | C5H4Br2N2
